US09108938B2
A mixture of 2-(2-cyclopropylpyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)acetonitrile (3.50 g, 126 mmol), Raney Ni (3.50 g) and NH3H2O (10 mL) in MeOH (150 mL) was degassed and purged with argon and H2, then stirred at room temperature under H2 (50 Psi) for 4 hours. The reaction mixture was filtered and concentrated in vacuum to give 2-(2-cyclopropylpyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)ethanamine as a yellow oil (3.10 g), which was used directly for next step without further purification.

reactant | 2-(2-cyclopropylpyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)acetonitrile | 126 mmol, 3.50 g | C1(CC1)C1=NC=C(C=N1)C(C#N)N1CCC(CC1)(F)F | C14H16F2N4
solvent | MeOH | 150 mL | CO | CH4O
catalyst | Ni | 3.50 g | [Ni] | Ni
product | 2-(2-cyclopropylpyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)ethanamine | 3.10 g | C1(CC1)C1=NC=C(C=N1)C(CN)N1CCC(CC1)(F)F | C14H20F2N4
